US06331538B1
1-(2,4,5-Trifluorophenyl)-3-benzyloxy-6,7-difluoro-1H-quinazoline-2,4-dione
Using General Method 3, the reaction of carbonyldiimidazole (4.9 g, 30.4 mmol) and crude 2-(2,4,5-trifluoro-anilino)-N-benzyloxy-4,5-difluoro-benzamide (Example A-1, 6.22 g, 15.2 mmol) provided 0.35 g of the title compound as a solid.

reactant | carbonyldiimidazole | 30.4 mmol, 4.9 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-(2,4,5-trifluoro-anilino)-N-benzyloxy-4,5-difluoro-benzamide | 15.2 mmol, 6.22 g | FC1=C(NC2=C(C(=O)NOCC3=CC=CC=C3)C=C(C(=C2)F)F)C=C(C(=C1)F)F | C20H13F5N2O2
product | 1-(2,4,5-Trifluorophenyl)-3-benzyloxy-6,7-difluoro-1H-quinazoline-2,4-dione | 0.35 g | FC1=C(C=C(C(=C1)F)F)N1C(N(C(C2=CC(=C(C=C12)F)F)=O)OCC1=CC=CC=C1)=O | C21H11F5N2O3
